US08710236B2
Step D: 2-(4-{[(4-Benzofuran-2-yl-phenylcarbamoyl)-(4-tert-butyl-phenyl)-methyl]-methyl-amino}-benzoylamino)-ethanesulfonic Acid
4-{[(4-Benzofuran-2-yl-phenylcarbamoyl)-(4-tert-butyl-phenyl)-methyl]-methyl-amino}-benzoic acid (110 mg, 0.2 mmol), was taken up in 3 mL of DMF followed by addition of HOBt (79 mg, 0.52 mmol) and EDCI (99 mg, 0.52 mmol). The reaction was stirred at RT for 30 min, taurine (103 mg, 0.083 mmol) was added followed by Hunig's base (107 mg, 0.083 mmol) and allowed to stir an additional 16 h at RT. The solution was filtered through a frit and the DMF was subjected to reverse phase HPLC purification. After removal acetonitrile/water under reduced pressure, followed by trituration with methanol, gave a white solid (50 mg, 39%).

reactant | 4-{[(4-Benzofuran-2-yl-phenylcarbamoyl)-(4-tert-butyl-phenyl)-methyl]-methyl-amino}-benzoic acid | 0.2 mmol, 110 mg | O1C(=CC=C2C1=CC=C2)N(C(=O)C(C2=CC=C(C=C2)C(C)(C)C)N(C2=CC=C(C(=O)O)C=C2)C)C2=CC=CC=C2 | C34H32N2O4
reactant | HOBt | 0.52 mmol, 79 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.52 mmol, 99 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | taurine | 0.083 mmol, 103 mg | NCCS(=O)(=O)O | C2H7NO3S
reactant | Hunig's base | 0.083 mmol, 107 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(4-{[(4-Benzofuran-2-yl-phenylcarbamoyl)-(4-tert-butyl-phenyl)-methyl]-methyl-amino}-benzoylamino)-ethanesulfonic Acid | 50 mg, 39% | O1C(=CC=C2C1=CC=C2)N(C(=O)C(C2=CC=C(C=C2)C(C)(C)C)N(C2=CC=C(C(=O)NCCS(=O)(=O)O)C=C2)C)C2=CC=CC=C2 | C36H37N3O6S
